US08912200B2
Step 4: (4-Ethynyl-3-methoxyphenyl)(4-methylpiperazin-1-yl)methanone
1M TBAF in THF (1.43 mL, 1.05 mmol) was added to a solution of {3-methoxy-4-[(trimethylsilyl)ethynyl]phenyl}(4-methylpiperazin-1-yl)methanone (0.450 g, 1.36 mmol) in dry THF (7 mL) and the mixture was stirred at room temperature for 2 h. The solvent was evaporated and the residue taken up with EtOAc (30 mL), washed with brine, dried over sodium sulfate and evaporated to afford the title compound (0.263 g, 75%).

reactant | TBAF | 1M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | {3-methoxy-4-[(trimethylsilyl)ethynyl]phenyl}(4-methylpiperazin-1-yl)methanone | 1.36 mmol, 0.450 g | COC=1C=C(C=CC1C#C[Si](C)(C)C)C(=O)N1CCN(CC1)C | C18H26N2O2Si
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | THF | 1.05 mmol, 1.43 mL | C1CCOC1 | C4H8O
product | (4-Ethynyl-3-methoxyphenyl)(4-methylpiperazin-1-yl)methanone | 0.263 g, 75% | C(#C)C1=C(C=C(C=C1)C(=O)N1CCN(CC1)C)OC | C15H18N2O2
